US04284558
3β-Acetoxy-5α,6β-dichloropregnan-20-one (1.4 g) was dissolved in fluorotrichloromethane (250 ml) and chloroform (200 ml) containing sodium trifluoroacetate (ca. 2 g) and sodium fluoride (ca. 2 g). The resulting solution was cooled to -78° and vigourously stirred, whereupon fluorine from four 750 cc bottles (10% v/v fluorine in nitrogen) was bubbled through the solution over a period of 8 hours. The reaction solution was then poured into aqueous sodium thiosulphate and the organic layer was separated, washed with water, dried over potassium carbonate and evaporated to dryness to yield crude 3β-acetoxy-5α,6β-dichloro-14α-fluoropregnan-20-one.

reactant | 3β-Acetoxy-5α,6β-dichloropregnan-20-one | 1.4 g | C(C)(=O)O[C@@H]1C[C@@]2([C@@H](C[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)Cl)Cl | C23H34Cl2O3
reactant | sodium trifluoroacetate | ca. 2 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | sodium fluoride | ca. 2 g | [F-].[Na+]
reactant | fluorine | FF | F2
solvent | fluorotrichloromethane | 250 ml | FC(Cl)(Cl)Cl | CCl3F
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3β-acetoxy-5α,6β-dichloro-14α-fluoropregnan-20-one | C(C)(=O)O[C@@H]1C[C@@]2([C@@H](C[C@H]3[C@@]4(CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)F)Cl)Cl | C23H33Cl2FO3
